US06437142B1
1.1 Preparation of acetic acid (1R,3R)-3-acetoxy-5-[(2E,9Z)-12,12,12-trifluoro-7,7-dimethyl-11-triethylsilanyloxy-11-trifluoromethyl-dodeca-2,9-dienylidene]-cyclohexyl ester
To a solution of 322 mg of (2E,9Z)-2-(12,12,12-Trifluoro-7,7-dimethyl-11-triethylsilanyloxy-11-trifluoromethyl-dodeca-2,9-diene-1-sulfonyl)-benzothiazole in 2 ml of THF was added at −78° 0.5 ml of LiN(SiMe3)2 (1.0 M in THF) and stirring of the red solution was continued for 30 min. To this solution was added at −78° a solution of 107 mg of (1R,3R)-1,3-diacetoxy-5-hydroxy-cyclohexane in 1 ml of THF over 10 min and stirring was continued for 5 h after which time t.l.c. indicated almost completion of the reaction. The mixture was warmed to 22°, washed with sat. aqueous NH4Cl-solution, the organic layer was dried over MgSO4 and evaporated. The residue was chromatographed on a Lobar CN-column (Merck) with CH2Cl2/CH3CN/hexane 15:5:200 to give 230 mg of the pure (t.l.c.) title compound as a colorless oil. IR (neat): 1735 m (CO); MS (El): 613/1 (M−C2H5).

reactant | (2E,9Z)-2-(12,12,12-Trifluoro-7,7-dimethyl-11-triethylsilanyloxy-11-trifluoromethyl-dodeca-2,9-diene-1-sulfonyl)-benzothiazole | 322 mg | FC(C(\C=C/CC(CCC/C=C/CS(=O)(=O)C=1SC2=C(N1)C=CC=C2)(C)C)(C(F)(F)F)O[Si](CC)(CC)CC)(F)F | C28H39F6NO3S2Si
reactant | LiN(SiMe3)2 | 1.0 M, 0.5 ml | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | (1R,3R)-1,3-diacetoxy-5-hydroxy-cyclohexane | 107 mg | C(C)(=O)O[C@H]1C[C@@H](CC(C1)O)OC(C)=O | C10H16O5
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | acetic acid (1R,3R)-3-acetoxy-5-[(2E,9Z)-12,12,12-trifluoro-7,7-dimethyl-11-triethylsilanyloxy-11-trifluoromethyl-dodeca-2,9-dienylidene]-cyclohexyl ester | C(C)(=O)O[C@H]1C[C@@H](CC(C1)=C\C=C\CCCC(C\C=C/C(C(F)(F)F)(C(F)(F)F)O[Si](CC)(CC)CC)(C)C)OC(C)=O | C31H48F6O5Si
